US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-4-pyridin-3-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine
A solution of 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.25 g, 0.64 mmol), pyridine-3-boronic acid (0.086 g, 0.70 mmol), 2 M Na2CO3 (0.48 mL, 0.96 mmol) and, n-PrOH (3 mL), is degassed with nitrogen for 10 minutes. Pd(OAc)2 (2.7 mg, 0.0013 mmol) and PPh3 (0.010 g, 0.038 mmol) are added and the solution is heated at 90° C. overnight. The solution is diluted with EtOAc (30 mL), washed with 10% Na2CO3 (30 mL), water (30 mL), brine (30 mL), dried over MgSO4, filtered, and concentrated. The residue is purified by ISCO (20-40% EtOAc gradient) furnish the title compound (0.051 g, 0.13 mmol, 20%). 1H NMR (CDCl3) δ 0.88 (t, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.09 (s, 3H), 2.50 (s, 3H), 2.52 (s, 3H), 3.29-3.40 (m, 1H), 6.69 (s, 1H), 7.33-7.43 (m, 1H), 7.47 (s, 1H), 7.80 (d, J=7.9 Hz, 1H), 8.61 (bs, 1H), 8.78 (bs, 1H). LC/MS (m/z): calcd. for C23H26N4S (M+H)+: 391.2; found: 391.4.

reactant | 3-(4-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.64 mmol, 0.25 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | pyridine-3-boronic acid | 0.70 mmol, 0.086 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 0.96 mmol, 2 M, 0.48 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.038 mmol, 0.010 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.0013 mmol, 2.7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | n-PrOH | 3 mL | C(CC)O | C3H8O
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-4-pyridin-3-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine | 0.13 mmol, 0.051 g, 20% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC=C(C2C)C=2C=NC=CC2 | C23H26N4S
